US07557213B2
Experimental conditions analogous to those described for Step 1 of Example 1 were used with 0.50 g (2.01 mmol) 2-(3,4-Dimethyl-benzoyl)-3-methoxy-acrylic acid methyl ester, 0.25 g (2.01 mmol) of 5,6-Dimethyl-pyridin-2-ylamine, and 15 mL of diphenyl ether to yield 68.7 mg of 3-(3,4-Dimethyl-benzoyl)-6,7-dimethyl-1H-[1,8]naphthyridin-4-one as a brown solid.

reactant | 2-(3,4-Dimethyl-benzoyl)-3-methoxy-acrylic acid methyl ester | 2.01 mmol, 0.50 g | COC(C(=COC)C(C1=CC(=C(C=C1)C)C)=O)=O | C14H16O4
reactant | 5,6-Dimethyl-pyridin-2-ylamine | 2.01 mmol, 0.25 g | CC=1C=CC(=NC1C)N | C7H10N2
reactant | diphenyl ether | 15 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-(3,4-Dimethyl-benzoyl)-6,7-dimethyl-1H-[1,8]naphthyridin-4-one | 68.7 mg | CC=1C=C(C(=O)C2=CNC3=NC(=C(C=C3C2=O)C)C)C=CC1C | C19H18N2O2
